US08222246B2
e) 6-[3-(4-Chloro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester
Sodium borohydride (719 mg, 18.2 mmol) was added in portions to 6-[3-(4-chloro-phenyl)-5-formyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (3.4 g, 9.12 mmol) in methanol (170 mL). After stirring for 1 h at room temperature a solution of citric acid (10% in water) was added. Extraction with ethyl acetate and chromatography (silica, ethyl acetate:heptane=1:9 to 1:1) afforded the title compound (3.11 g, 91%) as a white solid. MS: m/e=375.1 [M+H]+.

reactant | Sodium borohydride | 18.2 mmol, 719 mg | [BH4-].[Na+]
reactant | 6-[3-(4-chloro-phenyl)-5-formyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 9.12 mmol, 3.4 g | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C=O)C1=CC=C(C=C1)Cl)=O | C18H13ClN2O5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 170 mL | CO | CH4O
product | 6-[3-(4-Chloro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 3.11 g, 91% | COC(C1=CN=C(C=C1)OCC=1C(=NOC1CO)C1=CC=C(C=C1)Cl)=O | C18H15ClN2O5
